US06111125
A. Preparation of (1S)-1-ethoxyethoxy-3,4,5,5-tetramethyl-3-cyclohexene
0.8 g (5.2 mmol) of (1S)-3,4,5,5-tetramethyl-3-cyclohexen-1-ol was dissolved under N2 in 5 ml of absolute methylene chloride, the solution was cooled to 0° C. and 260 mg (1.04 mmol) of pyridinium p-toluenesulfonate, and then 0.45 mg (6.2 mmol) of ethyl vinyl ether were added. The mixture was subsequently stirred at 0° C. for 1 h and then poured into a saturated aqueous NaHCO3 solution, the mixture was extracted with methylene chloride, and the extract was dried over MgSO4 and concentrated. The residue was purified by distillation to yield 1.1 g (corresponding to 97% of theory) of the abovementioned product.

reactant | (1S)-3,4,5,5-tetramethyl-3-cyclohexen-1-ol | 5.2 mmol, 0.8 g | CC=1C[C@@H](CC(C1C)(C)C)O | C10H18O
reactant | pyridinium p-toluenesulfonate | 1.04 mmol, 260 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | ethyl vinyl ether | 6.2 mmol, 0.45 mg | C(=C)OCC | C4H8O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (1S)-1-ethoxyethoxy-3,4,5,5-tetramethyl-3-cyclohexene | C(C)OC(C)O[C@H]1CC(=C(C(C1)(C)C)C)C | C14H26O2
